US06809110B2
In analogy to the procedure described in example 10 c], [rac]-2-ethoxy-3-(4-hydroxy-2-methyl-phenyl)-propionic acid ethyl ester (example 10 b]) was reacted with 2-(2,4-dichloro-phenyl)-5-methoxymethyl-4-methyl-thiazole (prepared from 2,4-dichloro-thiobenzamide and ethyl 2-chloro-acetoacetate in analogy to the procedures described in examples 33 a] and 33 b]) in the presence of tributylphosphine and N,N,N′,N′-tetramethyl azodicarboxamide to yield [rac]-3-{4-[2-(2,4-dichloro-phenyl)-4-methyl-thiazol-5-ylmethoxy]-2-methyl-phenyl}-2-ethoxy-propionic acid ethyl ester as colorless liquid.

reactant | [rac]-2-ethoxy-3-(4-hydroxy-2-methyl-phenyl)-propionic acid ethyl ester | C(C)OC(C(CC1=C(C=C(C=C1)O)C)OCC)=O | C14H20O4
reactant | 2-(2,4-dichloro-phenyl)-5-methoxymethyl-4-methyl-thiazole | ClC1=C(C=CC(=C1)Cl)C=1SC(=C(N1)C)COC | C12H11Cl2NOS
reactant | 2,4-dichloro-thiobenzamide | ClC1=C(C(=S)N)C=CC(=C1)Cl | C7H5Cl2NS
reactant | ethyl 2-chloro-acetoacetate | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
reactant | tributylphosphine | C(CCC)P(CCCC)CCCC | C12H27P
reactant | N,N,N′,N′-tetramethyl azodicarboxamide | CN(C(=O)N=NC(=O)N(C)C)C | C6H12N4O2
product | [rac]-3-{4-[2-(2,4-dichloro-phenyl)-4-methyl-thiazol-5-ylmethoxy]-2-methyl-phenyl}-2-ethoxy-propionic acid ethyl ester | C(C)OC(C(CC1=C(C=C(C=C1)OCC1=C(N=C(S1)C1=C(C=C(C=C1)Cl)Cl)C)C)OCC)=O | C25H27Cl2NO4S
